US05612287
(1) Synthesis of N-(2-cyclopropanecarbonyl-1H-pyrrol-1-yl)phthalimide (IX-18)
Boron trifluoride-diethyl ether complex (10 g; 23.6×3 mM) was dissolved in 80 ml of 1,2-dichloroethane at 25° C., followed by adding dropwise cyclopropanecarbonyl chloride (7.4 g; 23.6×3 mM). After a suspension of N-(1H-pyrrol-1-yl)phthalimide (IX-1; 5 g; 23.6 mM) in 40 ml of 1,2-dichloroethane was added, the mixture was stirred at 25° C. for 18 hours. The reaction mixture was poured into ice-water and insoluble materials were removed by filtration. The 1,2-dichloroethane phase of the filtrate was separated and washed with a saturated saline solution, followed by drying with anhydrous sodium sulfate. After dried, it was concentrated and the resultant residue was purified with column chromatography on silica gel. White solid; m.p. 150°-2° C.; Yield 2.35 g (35.6%); HPLC purity 92% (254 nm) IR (KBr cm-1): 1803 1752 1647 1431 1398 1275 1236 1071 975 708 NMR(CDCl3, δ): 0.66~1.28(4H,m:cyclopropane ring CH2 --CH2) 2.16~2.5(1H,m:cyclopropane ring CH) 6.3(1H,dd,J=3,4 Hz:pyrrole ring C4) 6.9(1H,dd,J=2,3 Hz:pyrrole ring C3 or C5 ) 7.2(1H,dd,J=2,4 Hz:pyrrole ring C3 or C5 ) 7.5~8.0(4H,m:aromatic H)

reactant | cyclopropanecarbonyl chloride | 3 mM, 7.4 g | C1(CC1)C(=O)Cl | C4H5ClO
reactant | N-(1H-pyrrol-1-yl)phthalimide | 23.6 mM, 5 g | N1(C=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C12H8N2O2
solvent | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | N-(2-cyclopropanecarbonyl-1H-pyrrol-1-yl)phthalimide | C1(CC1)C(=O)C=1N(C=CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C16H12N2O3
